### PR TITLE
chore: unify `String.csize : Nat` and `Char.utf8Size : UInt32` as `Char.size : Nat`

### PR DESCRIPTION
**Pull request by kim-em**
It seems:
* there was no actual need for the UInt32 valued version
* downstream we were getting duplicative lemmas about both
* so lets reduce the API surface area!

If anyone would prefer the remaining function is still called `Char.utf8Size` I will happily change it. (`size` is hopefully still unambiguous, and it's helpful to rename here so we can give a deprecation warning that explains the type signature change.)

### CODE REVIEW

File: src/Init/Data/Char/Lemmas.lean [hunk 1]
```diff
@@ -22,13 +22,18 @@ protected theorem le_total (a b : Char) : a ≤ b ∨ b ≤ a := UInt32.le_total
 protected theorem lt_asymm {a b : Char} (h : a < b) : ¬ b < a := UInt32.lt_asymm h
 protected theorem ne_of_lt {a b : Char} (h : a < b) : a ≠ b := Char.ne_of_val_ne (UInt32.ne_of_lt h)
 
-theorem utf8Size_pos (c : Char) : 0 < c.utf8Size := by
-  simp only [utf8Size]
-  repeat (split; decide)
-  decide
+/-- `Char.size` now returns a `Nat`, rather than a `UInt32`. -/
+@[deprecated Char.size (since := "2024-06-04")] abbrev utf8Size := Char.size
```
Comment (tydeu) [inline src/Init/Data/Char/Lemmas.lean:26]: It seems like it would still be a good idea to return a `UInt32` from this for now to avoid breakages. The deprecation warning I think should be more than enough.

Comment (semorrison) [reply src/Init/Data/Char/Lemmas.lean]: Done.

File: src/Init/Data/Char/Lemmas.lean [hunk 2]
```diff
@@ -22,13 +22,24 @@ protected theorem le_total (a b : Char) : a ≤ b ∨ b ≤ a := UInt32.le_total
 protected theorem lt_asymm {a b : Char} (h : a < b) : ¬ b < a := UInt32.lt_asymm h
 protected theorem ne_of_lt {a b : Char} (h : a < b) : a ≠ b := Char.ne_of_val_ne (UInt32.ne_of_lt h)
 
-theorem utf8Size_pos (c : Char) : 0 < c.utf8Size := by
-  simp only [utf8Size]
-  repeat (split; decide)
-  decide
+/-- `Char.size` now returns a `Nat`, rather than a `UInt32`. -/
```
Comment (digama0) [inline src/Init/Data/Char/Lemmas.lean:25]: the comment is now incorrect

**Review by digama0 — APPROVED** [review]

File: src/Init/Data/Char/Lemmas.lean (hunk 2 above)
Comment (semorrison) [reply src/Init/Data/Char/Lemmas.lean:25]: I think it was technically correct, as the doc-string is talking about `Char.size`, but I've clarified, thanks.

**Comment by Kha** [comment]
> If anyone would prefer the remaining function is still called `Char.utf8Size` I will happily change it

Yes please, "size" is too ambiguous for the subtleness that is Unicode.

**Comment by semorrison** [comment]
> > If anyone would prefer the remaining function is still called `Char.utf8Size` I will happily change it
> 
> Yes please, "size" is too ambiguous for the subtleness that is Unicode.

Done!
